US03959260
21-Bromo-3α-hydroxy-3β-methyl-5α-pregnane-11,20 -dione
A stirred solution of 3α-hydroxy-3β-methyl-5α-pregnane-11,20-dione (5.0 g., 15.0 mmole) in methanol (300 ml.) was treated with a solution of bromine (1.0 ml.) in methanol (30 ml.) at 0° and at such a rate that the yellow colour of the solution disappeared before further addition of the bromine solution took place. The mixture was then poured into water, the precipitated title compound (2.8 g.) was collected by filtration and dried over P2O5 in vacuo.

reactant | 3α-hydroxy-3β-methyl-5α-pregnane-11,20-dione | 15.0 mmole, 5.0 g | O[C@]1(C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C)C | C22H34O3
reactant | bromine | 1.0 ml | BrBr | Br2
reactant | water | O | H2O
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 21-Bromo-3α-hydroxy-3β-methyl-5α-pregnane-11,20 -dione | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)(C)O)=O | C22H33BrO3
